US07427630B2
N-(6-Bromo-2-pyridinyl)-N′-(2-chloroethyl)urea
To a solution of 6-bromo-2-pyridinamine (1 g, 5.78 mmol) in anh. THF (25 mL), at r.t., under N2, was added 1-chloro-2-isocyanatoethane (1.2 mL, 2.5 eq) and the reaction mixture was stirred at r.t. for 18 hr. The crude mixture was partitioned between CH2Cl2 and water. The phases were separated and the organic layer was dried over anh. Na2SO4. The solids were filtered and the solvent evaporated to give the title compound (1.06 g, 66%) which was used in the next step without further purification.

reactant | 6-bromo-2-pyridinamine | 5.78 mmol, 1 g | BrC1=CC=CC(=N1)N | C5H5BrN2
reactant | 1-chloro-2-isocyanatoethane | 1.2 mL, 2.5 eq | ClCCN=C=O | C3H4ClNO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-(6-Bromo-2-pyridinyl)-N′-(2-chloroethyl)urea | 1.06 g, 66% | BrC1=CC=CC(=N1)NC(=O)NCCCl | C8H9BrClN3O
